US08975254B2
(R)-2-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-butan-2-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (489 mg, 1.355 mmol) and 2-acetylthiazole-4-carboxylic acid (278 mg, 1.626 mmol). The product was purified by Flash-chromatography. Yield 11.4%. 1H-NMR (400 MHz; CDCl3): δ 1.05 (t, 3H), 1.56-1.67 (m, 2H), 2.53 (s, 3H), 2.53 (s, 3H), 4.36-4.52 (m, 3H), 6.42 (d, 1H), 7.47-7.55 (m, 3H), 7.88 (d, 1H), 8.39 (s, 1H).

reactant | (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 1.355 mmol, 489 mg | N[C@@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)CC | C15H17ClN4
reactant | 2-acetylthiazole-4-carboxylic acid | 1.626 mmol, 278 mg | C(C)(=O)C=1SC=C(N1)C(=O)O | C6H5NO3S
product | (R)-2-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-butan-2-yl)thiazole-4-carboxamide | Yield 11.4% | C(C)(=O)C=1SC=C(N1)C(=O)N[C@@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)CC | C21H20ClN5O2S
